US05134128
According to the above procedure, 3-furaldehyde is brominated to give 5-bromo-3-furaldehyde which is then reacted with a Grignard reagent (R3MgX) and the resulting mixture treated with t-butyl lithium and trimethylsilyl chloride to give 4-[R3 --CH(OH)]-2-trimethylsilylfuran. Alternatively, 5-bromo-3-furaldehyde is converted to the dimethylacetal, then treated with t-butyl lithium and trimethylsilyl chloride to give 5-trimethylsilyl-3-furaldehyde which is reacted with R3MgX or R3Li to give 4-[R3 --CH(OH)]-2-trimethylsilylfuran. Treating this intermediate with oxygen and irradiation using an initiator such as Rose Bengal gives 4-[R3 --CH(OH]-5-hydroxy-2(5H)-furanone.

reactant | 5-bromo-3-furaldehyde | BrC1=CC(=CO1)C=O | C5H3BrO2
reactant | t-butyl lithium | C(C)(C)(C)[Li]
reactant | trimethylsilyl chloride | C[Si](C)(C)Cl | C3H9ClSi
product | 5-trimethylsilyl-3-furaldehyde | C[Si](C1=CC(=CO1)C=O)(C)C | C8H12O2Si
